US05998433
d) Synthesis of 7-allyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine
To a solution of 1.803 g (10.912 mmol) of N-allyl-3-(3-furyl)propylamine in 50 ml of acetic acid, 1.06 g (13.1 mmol) of 37% aqueous formaldehyde was added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide, and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield the desired product.

reactant | N-allyl-3-(3-furyl)propylamine | 10.912 mmol, 1.803 g | C(C=C)NCCCC1=COC=C1 | C10H15NO
reactant | formaldehyde | 13.1 mmol, 1.06 g | C=O | CH2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7-allyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine | C(C=C)N1CC2=C(CCC1)C=CO2 | C11H15NO
